US09120812B2
150 mg (394 μmol) of 4-(4-amino-2-fluorophenyl)-6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one are suspended in 4 ml anhydrous dioxane under argon. 92 μl (524 μmol) of DIEA are added, followed by 276 μl of a 1.9M solution of phosgene in toluene, after which the mixture is heated at 50° C. for 30 minutes. The resulting mixture is allowed to cool, followed by addition of 202 mg (2.10 mmol) of 4-aminopyridine dissolved in 2 ml of anhydrous DMF. The resulting mixture is reacted for 3 hours. It is poured into water, stirred, filtered and washed with water. The product is dissolved in DCM, dried over Na2SO4 and then concentrated under reduced pressure. It is taken up in Et2O, and the mixture is stirred and filtered. The product is dissolved in 5 ml of DCM with a small amount of MeOH, and 20 ml of ethyl acetate are added. The product is placed in a refrigerator and the solid is then filtered off to give 146 mg of 1-{4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-3-fluorophenyl}-3-pyridin-4-ylurea.

reactant | 4-(4-amino-2-fluorophenyl)-6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one | 394 μmol, 150 mg | NC1=CC(=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2[C@H](COCC2)C)F | C22H28FN5O3
reactant | DIEA | 524 μmol, 92 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-aminopyridine | 2.10 mmol, 202 mg | NC1=CC=NC=C1 | C5H6N2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-{4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-3-fluorophenyl}-3-pyridin-4-ylurea | 146 mg | C(C)N1C(C2=C(OC(C1)(C)C)N=C(N=C2C2=C(C=C(C=C2)NC(=O)NC2=CC=NC=C2)F)N2[C@H](COCC2)C)=O | C28H32FN7O4
